US08609687B2
methyl 4-(8-(1-cyclopentyl-1H-pyrazol-4-yl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino)benzoate
A suspension of methyl 4-(8-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)benzoate (43 mg, 0.13 mmol, 1 equiv), cyclopentyl bromide (41 μL, 0.38 mmol, 3.0 equiv) and cesium carbonate (126 mg, 0.383 mmol, 3.0 equiv) in N,N-dimethylformamide (1 mL) was heated at 100° C. After 2 h, the reaction mixture was diluted with ethyl acetate, and the resulting solution was washed with saturated aqueous sodium chloride solution. The collected organic was concentrated. Purification of the resulting residue by flash column chromatography (20% ethyl acetate in dichloromethane) afforded a white solid (23.5 mg, 45% yield). 1H NMR (400 MHz, DMSO-d6) δ 10.18 (s, 1 H), 8.74-8.55 (m, 2 H), 8.32 (s, 1 H), 7.91 (dd, J=13.9, 8.1 Hz, 3 H), 7.85 (d, J=8.9 Hz, 2 H), 7.10 (t, J=7.0 Hz, 1 H), 4.81 (s, 1 H), 3.82 (s, 3 H), 2.25-2.11 (m, 2), 2.11-1.93 (m, 2 H), 1.85 (d, J=3.5 Hz, 2 H), 1.77-1.63 (m, 2 H).

reactant | methyl 4-(8-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)benzoate | 0.13 mmol, 43 mg, 1 equiv | N1N=CC(=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C(=O)OC)C=C2 | C17H14N6O2
reactant | cyclopentyl bromide | 0.38 mmol, 41 μL, 3.0 equiv | C1(CCCC1)Br | C5H9Br
reactant | cesium carbonate | 0.383 mmol, 126 mg, 3.0 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-(8-(1-cyclopentyl-1H-pyrazol-4-yl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino)benzoate | 23.5 mg, 45% yield | C1(CCCC1)N1N=CC(=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C(=O)OC)C=C2 | C22H22N6O2
